US04110116
2,6-dimethyl-3-ethyl-5,7-dichloro-benzoxazole ethyl-sulfate
The compound was prepared as described in Example 5 using 2,6-dimethyl-5,7-dichloro-benzoxazole and diethylsulfate.

reactant | 2,6-dimethyl-5,7-dichloro-benzoxazole | CC=1OC2=C(N1)C=C(C(=C2Cl)C)Cl | C9H7Cl2NO
reactant | diethylsulfate | C(C)OS(=O)(=O)OCC | C4H10O4S
product | 2,6-dimethyl-3-ethyl-5,7-dichloro-benzoxazole ethyl-sulfate | C(C)OS(=O)(=O)O.CC1OC2=C(N1CC)C=C(C(=C2Cl)C)Cl | InChI=1S/C11H13Cl2NO.C2H6O4S/c1-4-14-7(3)15-11-9(14)5-8(12)6(2)10(11)13;1-2-6-7(3,4)5/h5,7H,4H2,1-3H3;2H2,1H3,(H,3,4,5)
